US05929067
4-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-5,5-diphenyl-pent-2-enoic acid N-butyl-amide
A solution of 100 mg (0.19 mmol) of 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pent-2-enoic acid and 37 μl (0.27 mmol) of triethylamine in 3 ml of N,N-dimethylformamide at 0° C. is treated with 23 μl (0.23 mmol) of butylamine, followed by 38 μl (0.23 mmol) of diethyl cyanophosphonate. After stirring for 4 h at room temperature, the reaction mixture is concentrated, diluted with ethyl acetate, and then washed with saturated sodium bicarbonate solution. The aqueous layer is further extracted with ethyl acetate (3×). The organic layers are combined, dried with sodium sulfate and concentrated. The residue is then purified by flash chromatography (95:5 methylene chloride/methanol) to give the title compound as a white solid. TLC: methylene chloride/methanol (95:5) Rf =0.23.

reactant | 4-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-5,5-diphenyl-pent-2-enoic acid | 0.19 mmol, 100 mg | FC(C=1C=C(C(=O)N(C)C(C=CC(=O)O)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C27H21F6NO3
reactant | triethylamine | 0.27 mmol, 37 μl | C(C)N(CC)CC | C6H15N
reactant | butylamine | 0.23 mmol, 23 μl | C(CCC)N | C4H11N
reactant | diethyl cyanophosphonate | 0.23 mmol, 38 μl | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-5,5-diphenyl-pent-2-enoic acid N-butyl-amide | C(CCC)NC(C=CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C31H30F6N2O2
